US05489614
c) 4'-Hydroxy-3'-methoxy-5'-nitro-2-bromoisobutyrophenone
To a solution of 4'-hydroxy-3'-methoxy-2-bromoisobutyrophenone (10.0 g) in dichloromethane (80 ml) was gradually added 2M HNO3 -dichloromethane (19 ml). The mixture was stirred for 2 hours at 10° C. after which water (100 ml) was added. The organic phase was separated, dried over Na2SO4 and evaporated to dryness. Ether (20 ml) was added. The resulting crystals were filtered and washed with ether. Yield 3.3 g.

reactant | 4'-hydroxy-3'-methoxy-2-bromoisobutyrophenone | 10.0 g | OC1=C(C=C(C=C1)C(C(C)(C)Br)=O)OC | C11H13BrO3
reactant | HNO3 dichloromethane | 2M, 19 ml | [N+](=O)(O)[O-].ClCCl
reactant | water | 100 ml | O | H2O
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 4'-Hydroxy-3'-methoxy-5'-nitro-2-bromoisobutyrophenone | OC1=C(C=C(C=C1[N+](=O)[O-])C(C(C)(C)Br)=O)OC | C11H12BrNO5
